Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13],4.99497633857
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13],3.73691013703
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[H:9],4.55485766482
[H:10].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:11]=[C:12]([H:13])[H:14]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],-1.83615962912
[C:3]([H:4])[O:5][C:6][H:7].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6][H:7],-3.30954671925
[C:1]#[C:2][C:3][O:4][H:5]>>[C:1]#[C:2].[C:3][O:4][H:5],6.23125127645
[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]#[C:3][C:4]([H:5])[O:6][H:7]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-3.64511228962
[H:1]/[C:2](=[C:3](/[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:2]([C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:3][C:4]([H:5])([H:6])[H:7],7.91979467
[H:1][C:2]#[C:3][O:5][C:6][C:7]([H:8])([H:9])[O:10][H:11].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[O:10][H:11],-2.48317345659
[H:1][C:2]([H:3])[O:4][C:5]([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]([H:3])[O:4][C:5]([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],2.85072242783
[H:1][O:2][C:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9]>>[C:4]([H:5])#[C:6][C:7]([H:8])[H:9].[H:1][O:2][C:3],3.21618086238
[H:1][O:2]/[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])=[C:9][H:10],4.7053835648
[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]([H:3])[C:4]#[C:5]/[C:6]([H:7])=[C:8](\[H:9])[C:11]([H:12])([H:13])[H:14],3.35137617543
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]=[C:9]([H:10])[H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:6]/[O:7][C:8]=[C:9]([H:10])[H:11].[H:5],2.50251936917
[C:1]=[C:2]([O:3][H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([O:3][H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11].[H:12],4.60182762762
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6][C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])([H:4])[C:5]([H:7])[C:12]([H:13])([H:14])[H:15],3.52012686082
[H:15].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.555784458030001
[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([O:3][H:4])[C:5][C:6]([H:7])([H:8])[H:9]>>[O:1]=[C:2]([O:3][H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.55793137757
[H:1][C:2][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.93966917539
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C:4]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:5],4.58483257438
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],3.71189636217
[H:1][C:2]#[C:4][C:5]([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.8075817755300014
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8]/[O:9][H:10]>>[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8]/[O:9][H:10].[H:1][C:2],7.242260805110003
[C:4]([H:5])([H:6])[O:7]/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],-5.08159252231
[C:5][H:6].[H:1][C:2]/[C:3]([H:4])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-8.082786131830003
[H:1][C:2]1([H:3])[C:4][C:5]([C:6]([H:7])([H:8])[H:9])[O:10][O:11]1>>[H:1][C:2]([H:3])([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[O:11][O:10],-0.297522095179
[C:7]#[C:8][H:9].[O:1]=[C:2]([H:3])[O:4][C:5][H:6]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]#[C:8][H:9],-6.201137025
[C:15]([H:16])([H:17])[H:18].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.0503244372400005
